*
*  ZETEX  ZVN4306A  Spice Mosfet Subcircuit   Last revision 3/5/00
*
.SUBCKT ZVN4306A 3 4 5
*NODES: DRAIN GATE SOURCE
M1 3 2 5 5 MOD1
RG 4 2 108
RL 3 5 6E6
C1 2 5 224.5E-12
C2 3 2 10.5E-12 
D1 5 3 DIODE1
*
.MODEL MOD1 NMOS VTO=2.634 RS=0.2762 RD=0.0 IS=1E-15 KP=9.77
+CBD=405E-12 PB=1 LAMBDA=0
.MODEL DIODE1 D IS=6.19E-13 N=1.0043 RS=0.065
.ENDS ZVN4306A
*
*$
**                          (C)  1992 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agents.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
